data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)cc1OC.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1OC"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)cc1OC", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1OC.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)cc1OC", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1OC"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)cc1OC", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1OC"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)cc1OC.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1OC"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)cc1OC", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1OC"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)cc1OC", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1OC"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)cc1OC", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)cc1OC.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)cc1", "products": "COc1ccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1"}, {"reactants": "COc1ccc(C(OC)O[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)cc1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(OC)cc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccc(OC)cc1", "products": "COc1ccc(C(OC)O[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)cc1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1Cl", "products": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1Cl"}, {"reactants": "Cc1cccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1Cl", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cccc(C)c1Cl", "products": "Cc1cccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1Cl"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(Br)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Br)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(Br)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Br)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(Br)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Br)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(Br)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Br)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(Br)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(Br)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=CC2(C)C(Cl)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=CC(C)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(Cl)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=CC(C)C1(Cl)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=CC(C)C1(Cl)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=CC(C)C1(Cl)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)C)c(OC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(OC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)C)c(OC)c1=C", "products": "COC[Si](C)(C)c1cc2c(c(OC)c1[Si](C)(C)C)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(F)c(F)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)c(F)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(F)c(F)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(F)c(F)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(F)c(F)c1)C2(C)C", "products": "C[C+]1C2(c3ccc(F)c(F)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(F)c(F)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(F)c(F)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(F)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(F)c(F)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(F)c(F)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(F)c(F)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(F)c(F)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(F)c(F)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(F)c(F)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(F)c(F)c3)C1(C)OC2=O.[H+]"}]}
